US05977139
Combine (S)-3-(3,4-dichlorophenyl)-3-(2-hydroxyethyl)pyrrolidine (R,R)-di-p-anisoyltartaric acid salt (9.05 kg, 13.3 mol), potassium carbonate (6.42 kg) in acetone (27.2 kg). Cool to about 5° C. and add water (8.3 gal). Cool to about 3° C. and slowly add a solution of 3,4,5-trimethoxybenzoyl chloride (14.0 kg, 26.9% in 1,2-dimethoxethane, 16.3 mol) over about 25 minutes. When the reaction is complete, warm to 25° C. Dilute the reaction mixture with toluene (36.35 kg). Separate the layers and extract the organic layer with a solution of water (2 gal) and 3M aqueous hydrochloric acid solution (2 kg) and then brine. Concentrate the organic layer in vacuo until about 5 gallons remainsb. Add toluene (182 kg) and again concentrate in vacuo until about 5 gallons remain. Add toluene (36.15 kg) and cool to about -3° C. Add N-methylmorpholine (6.85 kg, 67.7 mol) and then methanesulfonyl chloride (3.40 kg, 29.7 mol). When the reaction is complete add water (4.8 gal) and warm to about 25° C. Separate the layers and extract the organic layer with a 3M aqueous hydrochloric acid solution (18.1 kg). Separate the layers to give a solution of (S)-1-(3,4,5-trimethoxybenzoyl)-3-(3,4-dichlorophenyl)-3-(2-methanesulfonyloxyethyl)pyrrolidine.

reactant | (S)-3-(3,4-dichlorophenyl)-3-(2-hydroxyethyl)pyrrolidine (R,R)-di-p-anisoyltartaric acid salt | 13.3 mol, 9.05 kg | C(C1=CC=C(C=C1)OC)(=O)[C@@]([C@@](C(=O)O)(O)C(C1=CC=C(C=C1)OC)=O)(O)C(=O)O.ClC=1C=C(C=CC1Cl)[C@@]1(CNCC1)CCO
reactant | potassium carbonate | 6.42 kg | C([O-])([O-])=O.[K+].[K+]
reactant | 3,4,5-trimethoxybenzoyl chloride | 16.3 mol, 14.0 kg | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
reactant | N-methylmorpholine | 67.7 mol, 6.85 kg | CN1CCOCC1 | C5H11NO
reactant | methanesulfonyl chloride | 29.7 mol, 3.40 kg | CS(=O)(=O)Cl | CH3ClO2S
solvent | acetone | 27.2 kg | CC(=O)C | C3H6O
solvent | toluene | 36.35 kg | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | (S)-1-(3,4,5-trimethoxybenzoyl)-3-(3,4-dichlorophenyl)-3-(2-methanesulfonyloxyethyl)pyrrolidine | COC=1C=C(C(=O)N2C[C@@](CC2)(CCOS(=O)(=O)C)C2=CC(=C(C=C2)Cl)Cl)C=C(C1OC)OC | C23H27Cl2NO7S
